US06897231B2
B. 2E-N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-3-phenylprop-2-enamide
(2E)-N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-3-phenylprop-2-enamide was dissolved in 4 mL of 4.0 N HCl in 1,4-dioxane and the reaction was stirred at room temperature overnight. After neutralization with aqueous NaHCO3, the compound precipitated out of solution. The solid was collected by filtration and was purified by preparative HPLC. (0.036 g, 33% yield over 2 steps): 1H NMR (CD3OD) δ 8.7 (s, 1H), 8.3 (br s, 1H), 8.1 (br d, 1H), 7.8-7.6 (m, 6H), 7.54 (t, 1H), 7.45-7.4 (m, 3H), 6.85 (d, 1H); ES-MS (m/z) 407 [M+H]+.

reactant | (2E)-N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-3-phenylprop-2-enamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(\C=C\C1=CC=CC=C1)=O | C48H40N6O2
solvent | HCl | 4.0 N, 4 mL | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2E-N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl]-3-phenylprop-2-enamide | 33% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(\C=C\C1=CC=CC=C1)=O | C24H18N6O
